US06528657B2
(2) Synthesis of N-ethyl-3-(tricyanoethenyl)carbazole
10.2 g (37.5 mmol) of N-ethyl-3-(2,2-dicyanoethenyl)carbazole and 100 ml of N,N-dimethylformamide as solvent were placed in a 500 ml four-necked flask with a mechanical stirrer and bulb-shaped cooler. To this was added an aqueous solution of 1.84 g (37.5 mmol) of sodium cyanide and 4.3 ml of water, which was stirred for 10 minutes. Further, 16.6 g of lead tetraacetate was added. The resultant product was subjected to the reaction for 30 minutes. After the reaction was completed, 200 ml of chloroform was added. To the resultant aqueous solution was added 100 ml of water. The resultant liquid was washed in a separatory funnel. To the washed liquid was added sodium sulfate, which was left to stand for 30 minutes and dehydrated. The dehydrated solution was concentrated in an evaporator and dried under vacuum to obtain a red solid, which was recrystallized in the presence of benzene to obtain 1.5 g of a red crystal.

reactant | N-ethyl-3-(2,2-dicyanoethenyl)carbazole | 37.5 mmol, 10.2 g | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)C=C(C#N)C#N | C18H13N3
reactant | sodium cyanide | 37.5 mmol, 1.84 g | [C-]#N.[Na+]
reactant | lead tetraacetate | 16.6 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 4.3 ml | O | H2O
product | N-ethyl-3-(tricyanoethenyl)carbazole | 1.5 g | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)C(=C(C#N)C#N)C#N | C19H12N4
